Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
periumbilical pain x ___ days
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ female history of ovarian
cancer on oral chemotherapy status post total hysterectomy, 
GERD,
anxiety, and depression here with her fourth ER visit in the 
past
48 hours with concerns of sharp lower abdominal pain that is
intermittent and never goes away. Patient was in her normal 
state
of health 4 days ago and has been evaluated by the ___ emergency department twice, where she had a CT scan 
that
only showed a small hiatal hernia and normal labs. 

She presented to the emergency department here last night into
this early this morning for the same and had a reassuring exam
and ultimately was discharged home. She comes today with
persistent sharp and severe abdominal pain that is somewhat 
worse
than before and located below her umbilicus. She has some mild
nausea and poor p.o. intake however no vomiting. No fevers or
chills. She had some episodes of diarrhea 2 days ago and per the
outside records had a negative C. difficile. She is passing gas
appropriately had a normal bowel movement yesterday. No dysuria
or hematuria. No shortness of breath or cough but she did 
develop
some pleuritic chest pain that coincides with her lower 
abdominal
pain on the floor.

MDM: ___ woman history of ovarian cancer with her fourth
ER visit in the past 48 hours for this sharp lower abdominal 
pain
of unclear etiology with a negative CT scan. On exam her vitals
are normal she appears well nontoxic her abdomen is soft without
peritonitis or other findings to suggest an acute abdomen. She
has diffuse abdominal tenderness at this time. Will obtain
baseline labs as well as provide analgesia and antiemetic
control. Patient reports that she is allergic to Dilaudid
oxycodone however can tolerate morphine. Given that this is the
patient's fourth ER visit and has an otherwise negative CT scan
within the past 24 hours and soft abdomen without any acute
findings will defer repeat cross-sectional imaging at this time.
Patient will likely benefit from inpatient admission for pain
control of unclear etiology as she has failed multiple attempts
at outpatient management.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- Ovarian cancer s/p TAH/BSO
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression and anxiety
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS
- GERD
- Hypothyroidism
 
Social History:
___
Family History:
Diabetes Mellitus 
 
Physical Exam:
ADMISSION EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
Gen: Patient is seen sitting comfortably in no apparent distress
Pulm: CTAB no WRR, unlabored breathing
CV: RRR no MRG
HEENT: Moist mucous membranes, PERRLA, EOMI, no scleral icterus
Abdomen: Soft nondistended no mass diffuse tenderness to
palpation without localization, no rebound tenderness
Extremities: FROM in all 4 extremities, 2+ pulses peripherally,
no significant edema no calf swelling.
Skin: Warm, dry and intact
Neuro: No gross neurologic deficits, alert and oriented, moves
all extremities no obvious facial abnormalities
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
GENERAL: Alert, anxious, appears well and comfortable laying in
bed
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, mildly tender to deep palpation in bilateral 
lower quadrants without guarding or rebound tenderness, NABS
SKIN: No rashes or lesions noted on visible skin
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 03:00AM BLOOD WBC-4.8 RBC-3.15* Hgb-8.5* Hct-28.1* 
MCV-89 MCH-27.0 MCHC-30.2* RDW-17.0* RDWSD-54.3* Plt ___
___ 03:00AM BLOOD Neuts-64.1 ___ Monos-5.2 Eos-1.7 
Baso-0.4 Im ___ AbsNeut-3.09 AbsLymp-1.36 AbsMono-0.25 
AbsEos-0.08 AbsBaso-0.02
___ 03:00AM BLOOD Glucose-90 UreaN-13 Creat-1.0 Na-143 
K-3.9 Cl-106 HCO3-24 AnGap-13
___ 04:29PM BLOOD Albumin-3.8 Calcium-8.6 Phos-4.2 Mg-1.7
___ 04:29PM BLOOD ALT-16 AST-16 AlkPhos-112* TotBili-<0.2
___ 04:29PM BLOOD Lipase-33
___ 06:00AM BLOOD TSH-2.4
___ 04:38PM BLOOD Lactate-1.0

___ 04:47AM URINE Color-Straw Appear-Clear Sp ___
___ 04:47AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 04:45PM URINE RBC-1 WBC-5 Bacteri-NONE Yeast-NONE Epi-4

MICRO:
URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

CT A/P ___
No concerning new pulmonary nodules are identified.  There is no
pleural effusion or pneumothorax.  Note is made of mild 
bibasilar
atelectasis. 

CT A/P ___
1. No evidence of locoregional or distant metastases. 
2. Known left pelvic sidewall nodule measures 2.1 cm x 1.3 cm,
previously 2.2 
x 1.6 cm. 
3. Unchanged 9 mm hypoattenuating splenic nodule. 
  
CXR ___
The tip of a right Port-A-Cath projects over the cavoatrial
junction.  There is no focal consolidation, pleural effusion or
pneumothorax identified.  The size and appearance of the
cardiomediastinal silhouette is unchanged.  No acute osseous
abnormalities. 

CT A/P ___
CT notable for small hiatal hernia, otherwise normal.  CD from
___ not available.

Abdominal XR ___
IMPRESSION: 
1. Mildly dilated, air-filled ascending and transverse colon, 
compatible with 
colonic ileus. 
2. No significant stool burden. 
3. No evidence of small-bowel obstruction. 

Abdominal XR ___
FINDINGS:  
There is interval improvement of the colonic dilatation 
measuring up to 4.5 cm, previously measuring up to 6.9 cm.  
There are no abnormally dilated loops of small bowel. There is 
no free intraperitoneal air. 
Osseous structures are unremarkable. There are no unexplained 
soft tissue calcifications or radiopaque foreign bodies. 
IMPRESSION:  
Interval improvement in mild colonic ileus. 

DISCHARGE LABS:
___ 05:01AM BLOOD WBC-2.9* RBC-3.20* Hgb-8.7* Hct-28.1* 
MCV-88 MCH-27.2 MCHC-31.0* RDW-16.5* RDWSD-52.1* Plt Ct-90*
___ 05:01AM BLOOD Neuts-61.8 ___ Monos-5.2 Eos-2.8 
Baso-0.3 Im ___ AbsNeut-1.78 AbsLymp-0.84* AbsMono-0.15* 
AbsEos-0.08 AbsBaso-0.01
___ 05:01AM BLOOD Plt Ct-90*
___ 06:09AM BLOOD Glucose-84 UreaN-9 Creat-1.3* Na-145 
K-3.9 Cl-109* HCO___ AnGap-12
 
Brief Hospital Course:
SUMMARY: 
Ms. ___ is a ___ woman with a history of ovarian 
cancer (on oral chemotherapy) s/p TAH/BSO, depression/anxiety, 
IBS, GERD, and developmental delay attributed to childhood viral 
encephalitis who presented with acute periumbilical, constant 
abdominal pain associated with mild nausea and anorexia and was 
admitted with an unremarkable workup after 4 visits to the ED in 
___Y PROBLEM:

# Periumbilical/lower abdominal pain
The etiology of the initial abdominal pain that brought the 
patient to ___ is unclear.  She had a normal 
work-up including labs and CT A/P with contrast at ___.  
The differential included functional abdominal pain vs. 
interstitial cystitis (as there is some association with 
urination) vs. constipation.  After presenting to the ___ ED x 
2, the patient was admitted for further work-up.  She was given 
morphine for pain control.  An abdominal XR subsequently showed 
colonic ileus, which, while not thought the be the cause of the 
original presentation, may have been the cause for the 
persistent abdominal pain.  She was subsequently treated with 
bowel rest, IV fluids, and a fleet enema.  She improved with 
these interventions. She had a BM and was able to tolerate a 
regular diet prior to discharge.  She was counseled on avoiding 
narcotic pain medications if possible. 

CHRONIC/STABLE PROBLEMS:
# Recurrent Ovarian Cancer
Patient of Dr. ___. Previously on carboplatin now on oral chemo 
(NF) which pt brought in.

#Hypothyroidism 
Continued levothyroxine 

#Normocytic Anemia
Chronic, stable from prior. 

#Depression
Continued duloxetine, amitriptyline, aripiprazole 

#HTN: 
Continued home losartan

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild/Fever 
2. Losartan Potassium 25 mg PO DAILY 
3. Gabapentin 300 mg PO QAM 
4. Gabapentin 300 mg PO NOON 
5. Gabapentin 600 mg PO QHS 
6. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line 
7. olaparib 200 mg oral Q12H 
8. ARIPiprazole 2 mg PO QHS 
9. ClonazePAM 0.5-1 mg PO QHS:PRN anxiety 
10. Docusate Sodium 100 mg PO BID 
11. Polyethylene Glycol 17 g PO DAILY 
12. Omeprazole 40 mg PO DAILY 
13. DULoxetine ___ 120 mg PO DAILY 
14. Levothyroxine Sodium 75 mcg PO DAILY 
15. Amitriptyline 25 mg PO QHS 

 
Discharge Medications:
1.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocaine [Lidocaine Pain Relief] 4 % Apply 1 patch topical 
once a day Disp #*30 Patch Refills:*0 
2.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
3.  Docusate Sodium 200 mg PO BID 
RX *docusate sodium 100 mg 2 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*0 
4.  Acetaminophen 325-650 mg PO Q8H:PRN Pain - Mild/Fever  
5.  Amitriptyline 25 mg PO QHS  
6.  ARIPiprazole 2 mg PO QHS  
7.  ClonazePAM 0.5-1 mg PO QHS:PRN anxiety  
8.  DULoxetine ___ 120 mg PO DAILY  
9.  Gabapentin 300 mg PO QAM  
10.  Gabapentin 300 mg PO NOON  
11.  Gabapentin 600 mg PO QHS  
12.  Levothyroxine Sodium 75 mcg PO DAILY  
13.  Losartan Potassium 25 mg PO DAILY  
14.  olaparib 200 mg oral Q12H  
15.  Omeprazole 40 mg PO DAILY  
16.  Polyethylene Glycol 17 g PO DAILY  
17.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - First 
Line  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
Ileus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital for abdominal pain.  While the 
cause of your initial abdominal pain is uncertain, we suspect 
you developed an ileus (reduced bowel motility) in the setting 
of morphine use.  This ileus resolved with increased ambulation, 
an enema, and bowel rest.  It is very important that you 
continue to take miralax and Colace to ensure regular bowel 
movements.  If possible, avoid narcotic pain medications such as 
morphine due to side-effects of constipation and possibility of 
ileus.

You should follow up with your outpatient providers as detailed 
below and continue to take your medications as directed.  Please 
have your kidney function checked in 1 week.

Best wishes for your continued healing.
Take care,
Your ___ Care Team
 
Followup Instructions:
___